US03937833
A solution of 10.3 (0.020 mole) of bis(3-piperidinopropyl)-9-oxofluorene-2,7-dicarboxylate dihydrochloride in 350 ml of warm water is cooled to room temperature and added to 3 g (0.079 mole) of NaBH4 in 15 ml of water with swirling. The resulting product is extracted 5 times with ether, and the combined ether extracts are washed with water, then with NaCl solution, and dried over anhydrous MgSO4. The mixture is filtered, the filtrate treated with ethereal HCl and most of the solvent distilled off. The residue is dissolved in 50 ml of hot ethanol, filtered through filter aid and the filtrate refrigerated. The crystallized solid is filtered off and is recrystallized twice from ethanol to give bis(3-piperidinopropyl) 9-hydroxyfluorene-2,7-dicarboxylate dihydrochloride hydrate.

reactant | bis(3-piperidinopropyl)-9-oxofluorene-2,7-dicarboxylate dihydrochloride | Cl.Cl.N1(CCCCC1)CCCOC(=O)C1=CC=2C(C3=CC(=CC=C3C2C=C1)C(=O)OCCCN1CCCCC1)=O
reactant | NaBH4 | 0.079 mole, 3 g | [BH4-].[Na+]
solvent | water | 350 ml | O | H2O
solvent | water | 15 ml | O | H2O
product | bis(3-piperidinopropyl) 9-hydroxyfluorene-2,7-dicarboxylate dihydrochloride hydrate | O.Cl.Cl.OC1C2=CC(=CC=C2C=2C=CC(=CC12)C(=O)OCCCN1CCCCC1)C(=O)OCCCN1CCCCC1 | InChI=1S/C31H40N2O5.2ClH.H2O/c34-29-27-21-23(30(35)37-19-7-17-32-13-3-1-4-14-32)9-11-25(27)26-12-10-24(22-28(26)29)31(36)38-20-8-18-33-15-5-2-6-16-33;;;/h9-12,21-22,29,34H,1-8,13-20H2;2*1H;1H2
